2145-03-21 06:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 8562**] is a 74 year old female with past
   medical history of metastatic breast cancer, DVT on coumadin, prior CVA
   and cardiomyopathy, who presents with altered mental status.
   24 Hour Events:
   Transfused 1U pRBCs, Hct bumped from 22.6 to 26.9.
   Minimal urine output, increased to 20cc/hr after blood infusion. Giving
   500cc bolus of D5HCO3
   This morning  agitated, screaming, pulling at clothes and lines,
   appeared paranoid. Per husband, has happened previously and responded
   to pain meds.
   Given Haldol 1mg IV, Morphine 2mg IV and benadryl 25mg IV.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2145-3-21**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 87 (79 - 91) bpm
   BP: 98/77(83) {83/14(46) - 133/87(95)} mmHg
   RR: 13 (8 - 20) insp/min
   SpO2: 98% RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
           Total In:
                                                                  2,225 mL
                                                                    640 mL
   PO:
           TF:
   IVF:
                                                                    225 mL
                                                                    290 mL
   Blood products:
   350 mL
   Total out:
                                                                    200 mL
                                                                     72 mL
   Urine:
                                                                     53 mL
                                                                     72 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,025 mL
                                                                    568 mL
   Physical Examination
   GENERAL: Elderly thin female, chronically ill, in NAD, but appearing
   somewhat confused.
   HEENT: NC/AT. No conjunctival pallor, PERRL, no scleral icterus. Mucous
   membranes slightly dry, slight asymmetry of nasolabial fold.
   NECK: Supple, flat JVP, no LAD appreciated. No meningismus, Kernig and
   Brudzinski signs negative
   CARDIAC: Regular, III/VI SEM best heard at LUSB, no rubs or gallops
   LUNGS: Clear to ascultation anteriorly and posteriorly with very
   occasional wheeze, few rales at bases
   ABDOMEN: Soft, NT, ND, +BS, no dullness to percussion, no guarding or
   rebound tenderness
   GU: Rectal tone WNL (as assessed by nursing), patient appearing
   uncomfortable when temperature obtained, no inguinal masses or
   tenderness to palpation
   EXTR: Warm, bilateral ecchymoses over tibias, right leg slightly more
   edematous than left. Some signs of venous stasis. Right arm fixed in
   contracted position. Few excoriations over arms. No clubbing, cyanosis,
   or trace to 1+ edema.
   NEURO: Alert, oriented to self, "[**Hospital3 **] in [**Location (un) 2296**]" but not to
   date. Squeezes eyes symmetrically, PERRL. Tongue mid-line. Grip [**4-27**] on
   left, [**2-25**] on right, upper extremity [**4-27**] on left. Left leg 4-/5 (lifts
   off bed against gravity), plantar flexion [**4-27**] left, right 3-/5. Toe
   down-going on left, up-going on right.
   Labs / Radiology
   67 K/uL
   7.4 g/dL
   103 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.6 mEq/L
   28 mg/dL
   111 mEq/L
   137 mEq/L
   26.9 %
   4.7 K/uL
        [image002.jpg]
                             [**2145-3-20**]  08:16 PM
   WBC
   5.5
   4.5
   4.7
   Hct
   23.5
   22.6
   26.9
   Plt
   68
   68
   67
   Cr
   2.3
   1.9
   1.7
   Glucose
   111
   89
   103
   Other labs: PT / PTT / INR:49.4/38.0/5.6, ALT / AST:50/82, Alk Phos / T
   Bili:124/0.4, Fibrinogen:373 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.6
   g/dL, LDH:542 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL.
   Retic 0.5, Fibrinogen 373, Iron 39, TIBC 164, Folate, Ferritin, B12 >
   assay, TSH 3.1
   Assessment and Plan
   Ms. [**Known lastname 8562**] is a 74 year old female with past medical history of
   metastatic breast cancer, DVT on coumadin, prior CVA and
   cardiomyopathy, who presents with altered mental status.
   .
   #.  Altered Mental Status, weakness: Likely hypoperfusion and
   toxic/metabolic encephalopathy due to renal failure, worsening LFT
   abnormalities and narcotics in setting of poor substrate and poor
   reserve leading to deficits as noted and exacerbation of old CVA
   deficits.
   Other likely contributors contributors:
   - toxic/metabolic secondary to electrolyte disturbances (in setting of
   acute renal failure and worsening LFTs)
   - left lower lobe infiltrate, likely aspiration
   Les likely contributors:
   - CVA or TIA,  (CT head prelim neg)
   - infection of indwelling port, urine (UA bland), CNS (no consistent
   symptoms)
   - seizures with post-ictal state in setting of brain metastases
   - intracranial hemorrhage/mass effect/edema (no evidence on CT scan)
   Plan:
   - Will hold antibiotics for bacterial meningitis (already received
   vancomycin, ceftriaxone, and ampicillin), given no true signs of
   meningmus on exam, no fevers, and history no really consistent with
   this, after further discussion with husband as noted above.
   - Follow up culture data (blood, sputum if possible, urine)
   - Follow up electrolytes in setting of acute renal failure
   - Follow up final head CT read, consider repeat imaging in next day or
   days to assess for evolving process.
   - Support blood pressure as needed with IVF and pressors if needed for
   MAP >55-60
   - No LP given elevated INR, thrombocytopenia, husband
s wishes for no
   invasive procedures
   - Renal failure management as discussed below
   - Continue lactulose for question of hepatic encephalopathy (waiting
   for LFTs to return, has history of liver involvement of metastases)
   - Touch base with Dr [**Last Name (STitle) 810**] or covering neuro oncologist
   - transfuse another unit pRBCs to HCT >30
   .
   #. Acute renal failure: Given elevated BUN, could be all pre-renal in
   setting of poor PO intake reported by family and continuation of home
   BP medications (ACE-I, lasix, and Coreg). Her baseline creatinine is
   0.5. Given lack of urination, post-obstructive etiology is also a
   possibility although she has no known metastates in the pelvis that
   would account for obstruction..
   - FeNa 0.1%, Una 12, Uosm 329
   - Will consider checking renal ultrasound in AM if not improving after
   hydration
   - No schistocytes on multiple smears to suspect TTPHUS
   - Urine eos neg
   - bolus fluid/blood prn UOP
   .
   #. Hypotension: Per hematology/oncology clinic notes, patient's
   baseline blood pressure over the last several weeks was recorded as
   80-90/50. It has improved after receiving three liters of IVF to
   systolic currently 100-130's. No reason to be adrenal metastases known,
   but will consider [**Last Name (un) 45**] stim should she remain hypotensive. Does not
   appear to be sepsis but checking cultures. Also may have low baseline
   in setting of cardiomyopathy. In the ICU has gotten 1U pRBCs and 50cc
   D5HCO3 for low urine output with BPs in 80s-90s.
   - Continue D5 bicarb/blood boluses as needed for low urine output or
   systolic <85, or if symptomatic. EF most recently 50% and satting 100%
   allowing for aggressive fluid resuscitation.
   - Should she develop signs of fluid overload, will need to initiate
   pressor support
   .
   #. Thrombocytopenia: Platelets 68 on presentation. She is day 18 of her
   gemcitabine therapy, so this could represent marrow suppression from
   that cycle (WBC could be disporportionally up secondary to
   administration of GSC-F). Consistent with severity and timing of prior
   post chemo thrombocytopenia.
   - Holding anti-platelet agents in setting of low count, no SQ heparin.
   - Monitor for signs of bleeding, transfuse should count be <20K or have
   symptoms
   .
   #. Anemia: Patient's last HCT was 29, with values since [**Month (only) 1088**] in
   29-33 range. Today presentation HCT was 23.5, which is likely
   hemoconcentrated. Suspect large part of this may be marrow suppression
   secondary to chemotherapy, as has no signs of bleeding (guaiac negative
   in ED).
   - Hemolysis labs neg
   - poor reticulocytosis and anemia of chronic disease to account for
   macrocytosis and microcytosis respectively.
   - Iron, B12 and folate all nondeficient
   - s/p transfusion of 1U with appropriate [**Last Name (LF) 7676**], [**First Name3 (LF) 178**] repeat today to
   goal 30
   .
   #. Pruritis: Per husband, and as noted on skin examination, this has
   been a major complaint over the last week. Most likely effect of
   oxycodone (timing consistent and common). Less likely uremia as
   pruritis persists after improved renal function, and bilirubin normal.
   TSH and ferritin also normal.
   - Sarna and benadryl prn (taken without worsened MS)
   .
   #. Bilateral leg pain: Likely due to compression by known spinal mets.
   No sign of cord compresion or cauda equina as rectal tone and sensation
   in tact.
   - Unclear use of imaging given no plan for procedures.
   - Symptomatic treatment with morphine IV prn, avoid oxycodone due to
   pruritis
   - Will consider LENI for DVT in AM once stable (already therapeutic on
   coumadin though, and swelling is more on leg affected by stroke)
   .
   #. Breast Cancer: Per discussion with husband, further treatment will
   be with different [**Doctor Last Name **], however at this time, no active treatment
   while inpatient.
   - Will further discuss management with primary oncology team in the AM
   .
   #. Failure to thrive: Per OMR notes and discussion with husband, she
   has lost a significant amount of weight (>20 pounds) over the last
   several months, and has very poor PO intake. A trial of megace had been
   initiated, however this was stopped due to interaction with her
   coumadin and supratherapeutic INR.
   - Nutrition consult placed, NPO for now
   - Will need to further discuss this with husband and primary oncology
   team
   .
   #. History of DVT: Patient's INR is supratherapeutic. No current signs
   of bleeding or history of bleeding. Suspect given poor PO intake, lack
   of vitamin K in diet may be contributing to elevated INR.
   Administration of antibiotics may further increase INR.
   - Holding coumadin, type and cross sent in event she needs to be
   urgently reversed.
   - Will continue to monitor and unless starts to bleed
   .
   #. History of cardiomyopathy: Holding ACE-I, lasix, and coreg in
   setting of hypotension. Will carefully monitor IVF intake given
   depressed EF, however appears hypovolemic at present.
   .
   #. FEN: IVF, D5NAHCO3 maintenance while NPO
   .
   #. Pain management with oxycodone, tylenol
   ICU Care
   Nutrition: Consult placed, PO diet once more stable.
   Glycemic Control: N/A
   Lines: Portacath (2 ports)
   Prophylaxis:
                  DVT: supratherapeutic on coumadin, pneumoboot to left
   leg
   Stress ulcer: PPI
   Communication:  Comments: Husband cell: [**Telephone/Fax (1) 8563**]
   Code status: DNR/DNI, Pressors okay. Per husband, no invasive
   procedures unless they would have palliative effect (eg palliative
   thoracentesis would be okay)
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 8562**] has had one unit pRBC's with some improvement in HCt and
   renal function. She continues to be quite agitated and complains of
   pruritus. She denies pain. Her husband is at her bedside.
   Exam notable for frail elderly woman with BP of 98/77 HR of 104 RR of
   24  with sats of 100% on RA. Her MM are dry and she has clear lung
   sounds with a supple neck. kegs are edematous and wih some anterior
   bruising.
    Labs notable for WBC of 4.7 K, HCT 26.9 , K+4.6 , Cr 1.7 , lactate<
   2.0 and INR of 5.3 CXR with possible infiltrate at left base but no
   evidence for interstitial edema.
   Agree with plan to support with IVF's, blood products and antibiotics
   for possible aspiration PNA.  LFT's, renal function will hopefully
   improve over next 24 hrs. If mental status does not improve, then EEG
   may be necessary. Dr [**Last Name (STitle) 810**] will be consulted who follows her closely.
   She may need hospice level care if she does not improve over next 48
   hrs.
   Remainder of plan as outlined above. Husband has been updated regarding
   plans today
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2145-3-21**] 01:35 PM ------

2145-03-22 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 8562**] is a 74 year old female with past
   medical history of metastatic breast cancer, DVT on coumadin, prior CVA
   and cardiomyopathy, who presents with altered mental status.
   24 Hour Events:
   - Pt tachy to 120s throughout day. Pt recieving 1u PRBC at the time,
   but was still tachy in 100s a couple hrs prior to getting blood. Pt
   denied pain or anxiety. She had no fevers, a normal TSH, and only
   slightly dry MM.  She had good UOP and +balance nearly 2L - so did not
   give further fluids at the time.  In addition the patient was already
   getting blood. HR came down on its own by 7pm
   - At 11:30pm pt became tachy to 150s - ?SVT. Pt agitated would not
   allow carotid massage, gave metop 5 IV x1, 500ml NS bolus, haldol 1mg
   x1, and pt 's HR returned to 90s.
   -Early in AM pt given benadry and morphine for itching and agitation.
   -HR to 150s at 7am. Gave metoprolol 5 IV x1 and HR decreased to 90s.
   EKG unchanged from prior schowing SVT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-3-21**] 06:10 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-3-21**] 04:39 PM
   Morphine Sulfate - [**2145-3-21**] 06:46 PM
   Metoprolol - [**2145-3-21**] 11:23 PM
   Haloperidol (Haldol) - [**2145-3-21**] 11:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-22**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 139 (96 - 139) bpm
   BP: 147/83(96) {87/40(31) - 147/107(102)} mmHg
   RR: 16 (10 - 30) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 62 Inch
             Total In:
                                                                  3,773 mL
                                                                    815 mL
   PO:
             TF:
   IVF:
                                                                  3,073 mL
                                                                    815 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    942 mL
                                                                    550 mL
   Urine:
                                                                    942 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,831 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   Physical Examination:
   General: agitated, following basic commands, slurred speech, oreinted
   to self, oriented to location (said [**Hospital1 **] but stated that was an
   accident and knows she is at [**Hospital1 **].  Later was able to say again she is at
   [**Hospital1 **]).  Knows name of her husband.  Thought it was [**2132**].
   HEENT: Dry mmm, no icterus
   CV: RRR ns1/s2 no m/r/g
   Lungs: CTAB anteriorly and posteriorly
   Abd: soft, NTND, no HSM, no RUQ tenderness
   Peripheral Vascular: Right radial pulse: 1+, left radial pulse: 1+,
   Right DP pulse: 1+, Left DP pulse: 1+
   Skin:  No rashes
   Extremities: R arm in flexion.  Unable to squeeze right hand or step on
   gas pedal with R foot.  Pt states both of these are chronic.  Grip and
   plantar flexion intact on left.
   Labs / Radiology
   67 K/uL
   9.2 g/dL
   103 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.6 mEq/L
   28 mg/dL
   111 mEq/L
   137 mEq/L
   26.9 %
   4.7 K/uL
        [image002.jpg]
                             [**2145-3-20**]  08:16 PM
                             [**2145-3-21**]  05:37 AM
   WBC
   4.5
   4.7
   Hct
   22.6
   26.9
   Plt
   68
   67
   Cr
   1.9
   1.7
   Glucose
   89
   103
   Other labs: PT / PTT / INR:47.3/34.7/5.3, ALT / AST:50/82, Alk Phos / T
   Bili:124/0.4, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:15.0 %, Eos:2.0 %, Fibrinogen:373 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.6 g/dL, LDH:542 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname 8562**] is a 74 year old female with past medical history of
   metastatic breast cancer, DVT on coumadin, prior CVA and
   cardiomyopathy, who presents with altered mental status.
   .
   #.  Altered Mental Status, weakness: Ddx  includes infection (likely
   LLL infiltrate), hypocalcemia, leptomeningeal spread of breast CA,
   hypoperfusion, toxic/metabolic encephalopathy (pt was in renal
   failure), narcotics, seizure secondary to brain mets.  Could be
   contributing to exacerbation of  old CVA deficits.
   -CT of the head negtive for CVA or TIA, bleed, or new edema.
   Plan:
   - Will hold antibiotics for bacterial meningitis (already received
   vancomycin, ceftriaxone, and ampicillin), given no true signs of
   meningmus on exam, no fevers, and history no really consistent with
   this, after further discussion with husband as noted above.
   - Follow up culture data (blood, sputum if possible, urine)
   - Follow up electrolytes in setting of acute renal failure
   - Follow up final head CT read, consider repeat imaging in next day or
   days to assess for evolving process.
   - Support blood pressure as needed with IVF and pressors if needed for
   MAP >55-60
   - No LP given elevated INR, thrombocytopenia, husband
s wishes for no
   invasive procedures
   - Renal failure management as discussed below
   - Continue lactulose for question of hepatic encephalopathy (waiting
   for LFTs to return, has history of liver involvement of metastases)
   - Touch base with Dr [**Last Name (STitle) 810**] or covering neuro oncologist
   - transfuse another unit pRBCs to HCT >30
   .
   #. Acute renal failure: Given elevated BUN, could be all pre-renal in
   setting of poor PO intake reported by family and continuation of home
   BP medications (ACE-I, lasix, and Coreg). Her baseline creatinine is
   0.5. Given lack of urination, post-obstructive etiology is also a
   possibility although she has no known metastates in the pelvis that
   would account for obstruction..
   - FeNa 0.1%, Una 12, Uosm 329
   - Will consider checking renal ultrasound in AM if not improving after
   hydration
   - No schistocytes on multiple smears to suspect TTPHUS
   - Urine eos neg
   - bolus fluid/blood prn UOP
   .
   #. Hypotension: Per hematology/oncology clinic notes, patient's
   baseline blood pressure over the last several weeks was recorded as
   80-90/50. It has improved after receiving three liters of IVF to
   systolic currently 100-130's. No reason to be adrenal metastases known,
   but will consider [**Last Name (un) 45**] stim should she remain hypotensive. Does not
   appear to be sepsis but checking cultures. Also may have low baseline
   in setting of cardiomyopathy. In the ICU has gotten 1U pRBCs and 50cc
   D5HCO3 for low urine output with BPs in 80s-90s.
   - Continue D5 bicarb/blood boluses as needed for low urine output or
   systolic <85, or if symptomatic. EF most recently 50% and satting 100%
   allowing for aggressive fluid resuscitation.
   - Should she develop signs of fluid overload, will need to initiate
   pressor support
   .
   #. Thrombocytopenia: Platelets 68 on presentation. She is day 18 of her
   gemcitabine therapy, so this could represent marrow suppression from
   that cycle (WBC could be disporportionally up secondary to
   administration of GSC-F). Consistent with severity and timing of prior
   post chemo thrombocytopenia.
   - Holding anti-platelet agents in setting of low count, no SQ heparin.
   - Monitor for signs of bleeding, transfuse should count be <20K or have
   symptoms
   .
   #. Anemia: Patient's last HCT was 29, with values since [**Month (only) 1088**] in
   29-33 range. Today presentation HCT was 23.5, which is likely
   hemoconcentrated. Suspect large part of this may be marrow suppression
   secondary to chemotherapy, as has no signs of bleeding (guaiac negative
   in ED).
   - Hemolysis labs neg
   - poor reticulocytosis and anemia of chronic disease to account for
   macrocytosis and microcytosis respectively.
   - Iron, B12 and folate all nondeficient
   - s/p transfusion of 1U with appropriate [**Last Name (LF) 7676**], [**First Name3 (LF) 178**] repeat today to
   goal 30
   .
   #. Pruritis: Per husband, and as noted on skin examination, this has
   been a major complaint over the last week. Most likely effect of
   oxycodone (timing consistent and common). Less likely uremia as
   pruritis persists after improved renal function, and bilirubin normal.
   TSH and ferritin also normal.
   - Sarna and benadryl prn (taken without worsened MS)
   .
   #. Bilateral leg pain: Likely due to compression by known spinal mets.
   No sign of cord compresion or cauda equina as rectal tone and sensation
   in tact.
   - Unclear use of imaging given no plan for procedures.
   - Symptomatic treatment with morphine IV prn, avoid oxycodone due to
   pruritis
   - Will consider LENI for DVT in AM once stable (already therapeutic on
   coumadin though, and swelling is more on leg affected by stroke)
   .
   #. Breast Cancer: Per discussion with husband, further treatment will
   be with different [**Doctor Last Name **], however at this time, no active treatment
   while inpatient.
   - Will further discuss management with primary oncology team in the AM
   .
   #. Failure to thrive: Per OMR notes and discussion with husband, she
   has lost a significant amount of weight (>20 pounds) over the last
   several months, and has very poor PO intake. A trial of megace had been
   initiated, however this was stopped due to interaction with her
   coumadin and supratherapeutic INR.
   - Nutrition consult placed, NPO for now
   - Will need to further discuss this with husband and primary oncology
   team
   .
   #. History of DVT: Patient's INR is supratherapeutic. No current signs
   of bleeding or history of bleeding. Suspect given poor PO intake, lack
   of vitamin K in diet may be contributing to elevated INR.
   Administration of antibiotics may further increase INR.
   - Holding coumadin, type and cross sent in event she needs to be
   urgently reversed.
   - Will continue to monitor and unless starts to bleed
   .
   #. History of cardiomyopathy: Holding ACE-I, lasix, and coreg in
   setting of hypotension. Will carefully monitor IVF intake given
   depressed EF, however appears hypovolemic at present.
   .
   #. FEN: IVF, D5NAHCO3 maintenance while NPO
   .
   #. Pain management with oxycodone, tylenol
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Nutrition: Consult placed, PO diet once more stable.
   Glycemic Control: N/A
   Lines: Portacath (2 ports)
   Prophylaxis:
                  DVT: supratherapeutic on coumadin, pneumoboot to left
   leg
   Stress ulcer: PPI
   Communication:  Comments: Husband cell: [**Telephone/Fax (1) 8563**]
   Code status: DNR/DNI, Pressors okay. Per husband, no invasive
   procedures unless they would have palliative effect (eg palliative
   thoracentesis would be okay)
   Disposition:

2145-03-22 13:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced tachycardia (ST) responded to iv beta-blocker.
   Recurrence this AM wth resolution following beta-blocker.
   Mental status reveals some disorientation and confusion.
   EKG - At [**2145-3-21**] 04:08 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-3-21**] 06:10 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2145-3-21**] 11:23 PM
   Metoprolol - [**2145-3-22**] 07:15 AM
   Famotidine (Pepcid) - [**2145-3-22**] 07:40 AM
   Morphine Sulfate - [**2145-3-22**] 10:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-3-22**] 01:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 90 (90 - 163) bpm
   BP: 114/37(58) {101/37(49) - 147/93(102)} mmHg
   RR: 11 (10 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,773 mL
                                                                  1,020 mL
   PO:
             TF:
   IVF:
                                                                  3,073 mL
                                                                  1,020 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    942 mL
                                                                    897 mL
   Urine:
                                                                    942 mL
                                                                    897 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,831 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal, Emotionally volatile; teary, weepy
   Labs / Radiology
   10.8 g/dL
   106 K/uL
   77 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   20 mg/dL
   112 mEq/L
   143 mEq/L
   32.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2145-3-20**]  08:16 PM
                             [**2145-3-21**]  05:37 AM
                             [**2145-3-22**]  05:02 AM
   WBC
   4.5
   4.7
   5.8
   Hct
   22.6
   26.9
   32.0
   Plt
   68
   67
   106
   Cr
   1.9
   1.7
   0.8
   Glucose
   89
   103
   77
   Other labs: PT / PTT / INR:19.6/29.3/1.8, ALT / AST:50/82, Alk Phos / T
   Bili:124/0.4, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:15.0 %, Eos:2.0 %, Fibrinogen:373 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.6 g/dL, LDH:542 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   Altered mental status, delerium, confusion.
   HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK) -- improved.  Monitor.
   ALTERED MENTAL STATUS,  DELIRIUM -- Subactue onset.  Concerns include
   toxic/metabolic response to pneumonia (LLL).  COntribution by
   hypocalcemia.  Other concerns include CNS infection (meningitis,
   abscess), leptomeningeal involvement of tumor, increased/progerssion of
   CNS tumor, encephalitis, medication effect.  MRI declined by patient
   and husband.  [**Name (NI) 440**] LP to assess for infection or malignancy.  Correct
   metabolic derrangements.
   HYPOCALCEMIA -- mild.  Check ionized.  Replete.
   PRURITIS -- symptomatic treatment.  Trial prn atarax.
   AGGITATION -- possible related to underlying process.
   RENAL FAILURE -- acute, resolving with iv fluids.  Monitor.
   MALIGNANCY -- extensive, widely metastatic.
   Possible INFECTION -- indwelling iv catheter --> line related
   infection.  Empirical antimicrobials.
   h/o DVT -- monitor PT on coumadin.  Hold coumadin while considering LP.
   NUTRITIONAL SUPPORT -- npo
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2145-3-20**] 07:35 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2145-03-23 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Ms. [**Known lastname 8562**] is a 74 year old female with past medical history of
   metastatic breast cancer, DVT on coumadin, prior CVA and
   cardiomyopathy, who presents with altered mental status.
   24 Hour Events:
   -RUQ u/s done- no read yet
   -Awaiting Dr [**Last Name (STitle) 810**] to come see pt. If does need an LP would need to be
   done by neurosurg
   -Calcium repleated and  free Ca was 1.15
   -Pt required Haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone 1g IV q24
   Vancomycin 1mg IV q48
   Infusions:
   Other ICU medications:
   Simvastatin 40 daily
   Folic acid
   Thiamine
   Senna
   Lactulose 30 [**Hospital1 **]
   Famotidine
   Haldol Prn
   Ibuprofen
   Tylenol
   hydroxyzine
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-23**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 77 (76 - 163) bpm
   BP: 130/35(56) {94/27(47) - 145/102(111)} mmHg
   RR: 13 (10 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,485 mL
                                                                     67 mL
   PO:
             TF:
   IVF:
                                                                  1,485 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,353 mL
                                                                    170 mL
   Urine:
                                                                  1,353 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    132 mL
                                                                   -103 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   PE:
   Gen: alert, awake, cooperative, NAD, oriented to self , thought it was
   [**3-25**]^nd and asking how she got here
   Cardiac: rrr ns1/s2 no m/r/g
   Pulm: CTAB anteriorly
   ABD: +bs soft ntnd
   Extremities: right arm in flexion.  3- strength on right side. Left
   side grip [**4-27**].  UE 4+/5 and LE plantarflexion 4+/5. DP pulses +1
   bilaterally and LE edema to above ankles +[**12-25**].
   Labs / Radiology
   130 K/uL
   9.6 g/dL
   85 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   16 mg/dL
   116 mEq/L
   147 mEq/L
   28.8 %
   4.2 K/uL
        [image002.jpg]
                             [**2145-3-20**]  08:16 PM
                             [**2145-3-21**]  05:37 AM
                             [**2145-3-22**]  05:02 AM
                             [**2145-3-23**]  04:06 AM
   WBC
   4.5
   4.7
   5.8
   4.2
   Hct
   22.6
   26.9
   32.0
   28.8
   Plt
   68
   67
   106
   130
   Cr
   1.9
   1.7
   0.8
   0.6
   Glucose
   89
   103
   77
   85
   Other labs: PT / PTT / INR:15.8/27.3/1.4, ALT / AST:32/58, Alk Phos / T
   Bili:103/0.9, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:15.0 %, Eos:2.0 %, Fibrinogen:373 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:411 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   ASSESSMENT AND PLAN:
   Ms. [**Known lastname 8562**] is a 74 year old female with past medical history of
   metastatic breast cancer, DVT on coumadin, prior CVA and
   cardiomyopathy, who presents with altered mental status and feeling of
   weakness on left side.  Has weakness on right side at baseline.
   .
   #.  Altered Mental Status: Pt had AMS on admission and thru [**2145-3-22**],
   oriented only to self and was combative.  On [**2145-3-23**] her mental status
   improved dramatically.  Thought likely to be toxic/metabolic factors in
   the setting of old CVA deficits. The toxic/metabolic factors could
   include PNA, oxycodone use, and possible small contribution of
   hypocalcemia.  There was concern for leptomeningeal disease given her
   metastatic breast cancer to the cerebellum, however, LP was not
   persueed given pt's mental status cleared and we would not expect it to
   resolve spontaneously.  Seizure could also be responsible if AMS was
   secondary to seizure. CT of the head was negtive for CVA or TIA, bleed,
   or new edema.  Pt still has innumerable calcified metastatic foci and
   mild edema.  She refused MRI given her severe clostrophobia.  Her
   oxycodone was discontinued and her calcium was repleated.  Pt did
   receive antibiotics for bacterial meningitis in the ED but they were
   not continued given that she had no fever or signs of meningismus.
   -d/c lactulose (was given for concern for hepatic encephalopathy )
   -avoid narcotics, low dose inbuprofen and Tylenol for pain.
   .
   #. PNA: Left retrocardiac mild PNA.
   -continue ceftriaxone and vanco.
   -f/u final on blood cx still pending
   .
   # Increased LFTs: RUQ was done for concern of rising LFTs given pt has
   liver mets.
   -Some biliary sludge found on RUQ ultrasound.
   .
   #. Acute renal failure:  Pt was pre-renal (FENA 0.1%) in setting of
   poor PO intake reported by family and continuation of home BP
   medications (ACE-I, lasix, and Coreg). Her baseline creatinine is 0.5.
   Her creatinine on admission was 2.3. Pt had received fluid boluses
   early on in the admission for hypotension.
   -creatinine today at 0.6
   .
   #. Hypotension: Pt was hypotensive on admission to 67 SBP and she
   received fluid boluses. Per hematology/oncology clinic notes, patient's
   baseline blood pressure over the last several weeks was recorded as
   80-90/50.
   -consider restarting BP meds tomorrow.
   .
   #. Thrombocytopenia: Platelets 68 on presentation. She was day 18 of
   her gemcitabine therapy so this liekly represent marrow suppression
   from that cycle. (WBC could be disporportionally up secondary to
   administration of GSC-F). Consistent with severity and timing of prior
   post chemo thrombocytopenia. Her coumadin was held. Her
   thrombocytonpenia improved to the 130s today.
   -continue to follow daily plts
   .
   #. Anemia: HCT since [**Month (only) 1088**] in 29-33 range. On presentation HCT was
   23.5 and now is 32. Suspect large part of this may be marrow
   suppression secondary to chemotherapy, as has no signs of bleeding
   (guaiac negative in ED).  Her hemolysis labs were negative.  Poor
   reticulocytosis and anemia of chronic disease to account for
   macrocytosis and microcytosis respectively. She received one unit of
   blood while in the ICU and bumped appropriately.  HCT stable at 28.8 on
   [**2145-3-23**].
   -daily HCT check
   .
   #. Pruritis: Per husband, and as noted on skin examination, this has
   been a major complaint over the last week prior to admission. Most
   likely secondary to oxycodone.  She was treated with benedryl which was
   later discontinued due to her MS changes.
   -consider atarax prn puritis
   #. Bilateral leg pain: Likely due to compression by known spinal mets.
   She had no signs of cord compresion or cauda equina as rectal tone and
   sensation in tact. She was pain free on day of call out from ICU.
   -ibuprofen (low dose) or tylenol (low dose given liver fx) for pain
   control.
   .
   #SVT: Pt had 2 episodes of SVT while in the ICU with HR up to 150 which
   responded to metoprolol 5IV. No episodes of SVT on [**2145-3-23**].
   .
   # Breast Cancer: Not active pt while an in patient.
   -tx plan per primary oncologist
   .
   #. Failure to thrive: Per OMR notes and discussion with husband, she
   has lost a significant amount of weight (>20 pounds) over the last
   several months, and has very poor PO intake. A trial of megace had been
   initiated, however this was stopped due to interaction with her
   coumadin and supratherapeutic INR. She was seen by nutrition and
   originally placed on a restriceted diet.
   -advanced diet to soft dysphagia
   -continue supplement with boost/ensure.
   .
   #. History of DVT: Patient's INR was supratherapeutic on admission.
   She had no signs of bleeding.  Anticoagulation was held in anticipation
   of LP. Coumadin restarted on [**2145-3-23**] at 3mg daily down from home dose
   of 5mg daily given that she was supratherapeutic and also on
   antibiotics.
   .
   #. History of cardiomyopathy: Held ACE-I, lasix, and coreg in setting
   of hypotension.
   -consider restarting tomorrow.
   ICU Care
   Nutrition: soft dysphagia
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2145-3-20**] 07:35 PM
   Prophylaxis:
   DVT: restarting coumadin today
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI, pressors ok
   Disposition: call out to floor

2145-03-23 12:47:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Improved mental status, less aggitated and beligerant.
   Cooperative, oriented.
 ULTRASOUND - At [**2145-3-22**] 03:13 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-3-21**] 06:10 PM
   Vancomycin - [**2145-3-22**] 04:50 PM
   Ceftriaxone - [**2145-3-22**] 06:37 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2145-3-22**] 02:38 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-3-23**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 89 (76 - 117) bpm
   BP: 107/46(61) {94/27(47) - 150/102(111)} mmHg
   RR: 17 (10 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,485 mL
                                                                    570 mL
   PO:
             390 mL
   TF:
   IVF:
                                                                  1,485 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  1,353 mL
                                                                    385 mL
   Urine:
                                                                  1,353 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    132 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal, Right hemiparasis
   Labs / Radiology
   9.6 g/dL
   130 K/uL
   85 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   16 mg/dL
   116 mEq/L
   147 mEq/L
   28.8 %
   4.2 K/uL
        [image002.jpg]
                             [**2145-3-20**]  08:16 PM
                             [**2145-3-21**]  05:37 AM
                             [**2145-3-22**]  05:02 AM
                             [**2145-3-23**]  04:06 AM
   WBC
   4.5
   4.7
   5.8
   4.2
   Hct
   22.6
   26.9
   32.0
   28.8
   Plt
   68
   67
   106
   130
   Cr
   1.9
   1.7
   0.8
   0.6
   Glucose
   89
   103
   77
   85
   Other labs: PT / PTT / INR:15.8/27.3/1.4, ALT / AST:32/58, Alk Phos / T
   Bili:103/0.9, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:15.0 %, Eos:2.0 %, Fibrinogen:373 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:411 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   Altered mental status, delerium, confusion.
   ALTERED MENTAL STATUS,  DELIRIUM -- Subactue onset.  Attributed to
   toxic-metabolic dysfunction in setting of infection/sepsis, with
   possible contribution of medication effect (Levofloxicin, narcotics) on
   background of prior CVA.  Also consider seizure with post-ictal or
   confusional state --> consider EEG.
   HYPOVOLEMIA (VOLUME DEPLETION  -- improved.  Monitor.
   HYPOCALCEMIA -- mild.  Check ionized.  Repleted.
   PRURITIS -- symptomatic treatment.  Resolved.
   AGGITATION -- resolved.
   RENAL FAILURE -- acute, resolving with iv fluids.  Monitor.
   MALIGNANCY -- extensive, widely metastatic.
   Possible INFECTION -- indwelling iv catheter --> line related
   infection.  new LLL infiltrate --> Empirical antimicrobials.
   h/o DVT -- resume coumadin,  monitor PT on coumadin.
   NUTRITIONAL SUPPORT -- resume PO under supervision.  Consider formal
   speech/swallow evaluation if concern.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2145-3-20**] 07:35 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes